* Z:\home\thomas\radio\radiohw\gauges.asc
* Generated by LTspice 26.0.1 for Windows.
R1 GUAGE1 N001 50
V1 N001 0 PULSE(0 12 0 0 0 5.5m 11m)
R2 GUAGE1 0 {Rsender}
C1 GUAGE1 0 0.075
R3 GUAGE2 N002 50
V2 N002 0 PULSE(0 12 0 0 0 5.5m 11m)
C2 GUAGE2 0 0.075
R4 GUAGE2 P001 1
M1 P001 N003 0 0 Si1555DL_N
V3 N005 0 PULSE(8 73 0 0.5m 0.5m 0 1m 150000)
B1 N007 0 V={Rsender}
V4 N004 0 5
R5 N006 N005 9k
R6 0 N006 1k
R7 N008 N007 9k
R8 0 N008 1k
X§U2 N008 N006 N004 0 N003 OP777 ;§pnba In+)In-)V+)V-)OUT
R9 GUAGE2 0 80
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\thomas\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 7s 6s
.step param Rsender 8 73 1
.meas TRAN GUAGE1_measure AVG V(GUAGE1)
.meas TRAN GUAGE2_measure AVG V(GUAGE2)
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\thomas\AppData\Local\LTspice\lib\sym\OpAmps\OP777.asy)
.lib ADI.lib
.backanno
.end
